US07629370B2
N-(2-Hydroxyethyl)-N-methylcyclohexanecarboxyamide (0.19 g, 1.5 mmol), methyl (2S)-3-(4-hydroxyphenyl)-2-[(4-phenyl-1,3-thiazol-2-yl)amino]-propionate from: Step A (0.35 g, 1 mmol) and triphenylphosphine (0.79 g; 3 mmol)-were dissolved in tetrahydrofuran (THF). After cooling the reaction mixture to 5° C., ADDP (0.76 g, 3 mmol) was added. The reaction was then stirred at room temperature for 18-24 h. THF was evaporated to obtain crude methyl (2S)-3-(4-{2-[(cyclohexylcarbonyl)-(methyl)amino]ethoxy}phenyl)-2-[(4-phenyl-1,3-thiazol-2-yl)amino]-propionate.

reactant | N-(2-Hydroxyethyl)-N-methylcyclohexanecarboxyamide | 1.5 mmol, 0.19 g | OCCN(C(=O)CC1CCCCC1)C | C11H21NO2
reactant | methyl (2S)-3-(4-hydroxyphenyl)-2-[(4-phenyl-1,3-thiazol-2-yl)amino]-propionate | OC1=CC=C(C=C1)C[C@@H](C(=O)OC)NC=1SC=C(N1)C1=CC=CC=C1 | C19H18N2O3S
reactant | triphenylphosphine | 3 mmol, 0.79 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ADDP | 3 mmol, 0.76 g | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl (2S)-3-(4-{2-[(cyclohexylcarbonyl)-(methyl)amino]ethoxy}phenyl)-2-[(4-phenyl-1,3-thiazol-2-yl)amino]-propionate | C1(CCCCC1)C(=O)N(CCOC1=CC=C(C=C1)C[C@@H](C(=O)OC)NC=1SC=C(N1)C1=CC=CC=C1)C | C29H35N3O4S
